US06528510B1
Toluene-4-thiosulfonic acid S-(2-acetylamino-5-tert-butyl-benzothiazol-6-yl)ester
The title compound was prepared as described in Example BB-15 using toluene-4-thiosulfonic acid S-(2-amino-5-tert-butyl-benzothiazol-6-yl)ester (prepared in Example BB-1; 1.75 g, 4.47 mmol), acetyl chloride (4 mL), pyridine (5 mL), DMAP (0.3 g) and CH2Cl2 (20 mL). The crude product was purified by flash silica gel chromatography (20%-70% EtOAc in hexanes as eluents). MS(APCI): 435 (M+H).

reactant | toluene-4-thiosulfonic acid S-(2-amino-5-tert-butyl-benzothiazol-6-yl)ester | 4.47 mmol, 1.75 g | NC=1SC2=C(N1)C=C(C(=C2)SS(=O)(=O)C2=CC=C(C=C2)C)C(C)(C)C | C18H20N2O2S3
reactant | acetyl chloride | 4 mL | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 0.3 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | Toluene-4-thiosulfonic acid S-(2-acetylamino-5-tert-butyl-benzothiazol-6-yl)ester | C(C)(=O)NC=1SC2=C(N1)C=C(C(=C2)SS(=O)(=O)C2=CC=C(C=C2)C)C(C)(C)C | C20H22N2O3S3
